US05698704
2-Butyl-1,3-diazaspiro[4.4]non-2-en-4-one monohydrochloride
6.88 g (30 mmol) of N-(1-cyanocyclopentyl)pentanamide (content 84.7 percent), 16.66 g of dried butanol and 10.06 g (39 mmol) of a freshly-prepared 14.13 percent solution of hydrogen chloride in butanol were heated to the reflux point (preheated oil bath) under nitrogen, with stirring, and product precipitated out as soon as the internal temperature reached ca. 100° C. After 2.9 hours of reflux (115° C.), the mixture was cooled to 1° C. and left to stand for 1 hour at this temperature. The product which had precipitated out was filtered off, washed with 10 ml of ice-cold butanol and dried at 40° C./24 mbar. The yield of the product was 4.93 g (66 percent), content 92.7 percent (HPLC).

reactant | N-(1-cyanocyclopentyl)pentanamide | 30 mmol, 6.88 g | C(#N)C1(CCCC1)NC(CCCC)=O | C11H18N2O
reactant | hydrogen chloride | Cl | ClH
reactant | butanol | C(CCC)O | C4H10O
reactant | butanol | 16.66 g | C(CCC)O | C4H10O
product | 2-Butyl-1,3-diazaspiro[4.4]non-2-en-4-one monohydrochloride | Cl.C(CCC)C=1NC2(C(N1)=O)CCCC2 | InChI=1S/C11H18N2O.ClH/c1-2-3-6-9-12-10(14)11(13-9)7-4-5-8-11;/h2-8H2,1H3,(H,12,13,14);1H
